** sch_path: /home/veswaranandam/SKY130-AY38910/xschem/testbench_postbehavioral.sch
**.subckt testbench_postbehavioral
X1 VP A0 A1 A2 A3 A5 VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN VN
+ VN VN VN VN VN VN VN VN VN VP bc1 bc2 bdir CLK cen din_out0 din_out1 din_out2 din_out3 din_out4 din_out5 din_out6 din_out7 VN VN VN
+ VN VN VN VN VN VN VRST VN VP jt49_bus
Vdd VP VN 1.8
Vss VN GND 0
X2 CLK cen VRST bdir bc1 bc2 din_out7 din_out6 din_out5 din_out4 din_out3 din_out2 din_out1 din_out0 test_core
**** begin user architecture code


.param VDD=1.8
.include /home/veswaranandam/SKY130-AY38910/xschem/jt49_bus.spice
.include /home/veswaranandam/SKY130-AY38910/xschem/test_core.spice
.tran 10p 3ms
*.control

**** change default parameters of auto adc/dac bridges
*pre_set auto_bridge_d_in =
*+ ( ".model auto_adc adc_bridge(
*+   in_low = '0.9 * 1.8 / 2' in_high = '1.1 * 1.8 / 2'
*+   rise_delay=1e-11 fall_delay=1e-11 )"
*+ "auto_bridge%d [ %s ] [ %s ] auto_adc" )

*pre_set auto_bridge_d_out =
*+ ( ".model auto_dac dac_bridge(
*+   out_low = 0 out_high = 1.8
*+   t_rise=1e-11 t_fall=1e-11 )"
*+ "auto_bridge%d [ %s ] [ %s ] auto_dac" )

*  save all
*  tran 10p 3ms
*  remzerovec
*  write tb_counter_wrapper.raw
*.endc


.lib /usr/local/share/pdk/sky130A/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends
.GLOBAL GND
.end
